US03971823
A solution of 40 g of 1-[3-(methylamino)propyl]indene in 200 ml of absolute ether is added to 2.5 liters of liquid ammonia at -33°C. Lithium ribbon (35 g) is added over 1.5 hours. The bronze mixture is stirred for 1 hour, and treated with absolute ethanol over 2 hours until the blue color is discharged. The ammonia is evaporated overnight, whereupon water and ether are added with cooling in an ice bath. The layers are separated, the aqueous layer reextracted, and the organic layers are dried (potassium carbonate) and evaporated to give 40 g of 4,7-dihydro-1-[3-(methylamino)propyl]indan as an oil. The crude diene is taken up in 400 ml of toluene and treated with 24 g of phenoxypropylbromide in 100 ml of toluene. The mixture is refluxed for 18 hours, cooled, diluted with ether, and washed several times with water. The organic layers are then shaken with excess 10% hydrochloric acid. The bottom colorless aqueous phase of the 3-phase mixture is drawn off, the toluene-ether layer is decanted, and the isolated middle layer washed with distilled water. The oily hydrochloride is then shaken with excess 10% sodium hydroxide and ether and the organic phase is separated and dried (potassium carbonate). Evaporation gives 25 g of N-methyl-N-phenoxypropylaminopropyl-4,7-dihydroindan.

reactant | 1-[3-(methylamino)propyl]indene | 40 g | CNCCCC1C=CC2=CC=CC=C12 | C13H17N
reactant | ammonia | N | H3N
reactant | Lithium | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4,7-dihydro-1-[3-(methylamino)propyl]indan | 40 g | CNCCCC1CCC=2CC=CCC12 | C13H21N
